US08071592B2
(c) 7-Fluoro-2,3-dihydro-1,4-benzodioxin-5-amine
7-Fluoro-5-nitro-2,3-dihydro-1,4-benzodioxin (6.96 g, 35 mmol) and 5% Pd/C (4 g) in MeOH (500 ml) was stirred overnight in the presence of hydrogen at atmospheric pressure at rt. The catalyst was filtered off and solvent removed; the residue was dissolved in MeOH (100 ml), more 5% Pd/C (paste, 3 g) was added and mixture stirred overnight in presence of hydrogen (45 psi) at rt. The catalyst was filtered off and solvent removed; the residue treated with DCM (20 ml), the solid filtered off and compound in DCM loaded on silica (pre-wet with petroleum ether) and purified using a 10%-50% EtOAc: 40-60 petroleum ether gradient to provide the desired compound (3 g, 51%).

reactant | 7-Fluoro-5-nitro-2,3-dihydro-1,4-benzodioxin | 35 mmol, 6.96 g | FC=1C=C(C2=C(OCCO2)C1)[N+](=O)[O-] | C8H6FNO4
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 500 ml | CO | CH4O
catalyst | Pd/C | 4 g | [Pd] | Pd
product | 7-Fluoro-2,3-dihydro-1,4-benzodioxin-5-amine | 3 g, 51% | FC=1C=C(C2=C(OCCO2)C1)N | C8H8FNO2
